US04863920
11.64 g (37.5 mmol) of 7-chloro-8-fluoro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid was heated to 285° in a metal bath until the CO2 cleavage has finished. The melt was poured into 50 ml of ethanol and the precipitated product was filtered off under suction and washed with ethanol. After drying there was obtained 7-chloro-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 234°-235°.

reactant | 7-chloro-8-fluoro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 37.5 mmol, 11.64 g | ClC1=C(C=CC2=C1C(NCC=1N2C=NC1C(=O)O)=O)F | C12H7ClFN3O3
reactant | CO2 | C(=O)=O | CO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-chloro-8-fluoro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=C(C=CC2=C1C(N(CC=1N2C=NC1)C)=O)F | C12H9ClFN3O
